US04966909
5-(4-Chlorophenyl)-2-methyl-4-benzyl-2,4-dihydro-3H-1,2,4-triazol-3-one
To a stirred, room temperature, suspension of 4-benzyl-5-(4-chlorophenyl)-3H-1,2,4-triazol-3-one (10.85 g, 3.797×10-2 mole), 1 molar aqueous NaOH (42 ml, 4.2×10-2 mole), and ethanol (15 ml) was added methyl iodide (3.6 ml, 5.8×10-2 mole). After stirring overnight, the reaction was transferred to a separatory funnel where it was extracted with EtOAc (3x). The EtOAc extracts were combined, washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a yellowish foam. Purification of this foam by a combination of flash chromatography (20% EtOAc/CH2Cl2) and crystallization from cyclohexane afforded colorless crystals 5.92 g (52%), mp 90°-91° C.

reactant | 4-benzyl-5-(4-chlorophenyl)-3H-1,2,4-triazol-3-one | 3.797×10-2 mole, 10.85 g | C(C1=CC=CC=C1)N1C(NN=C1C1=CC=C(C=C1)Cl)=O | C15H12ClN3O
reactant | NaOH | 4.2×10-2 mole, 1 molar, 42 ml | [OH-].[Na+]
reactant | methyl iodide | 5.8×10-2 mole, 3.6 ml | CI | CH3I
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(4-Chlorophenyl)-2-methyl-4-benzyl-2,4-dihydro-3H-1,2,4-triazol-3-one | ClC1=CC=C(C=C1)C=1N(C(N(N1)C)=O)CC1=CC=CC=C1 | C16H14ClN3O
